US07528129B2
21d) (R)-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-2-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-ethyl 4-(2-oxo-1,2-dihydro-quinolin-3-yl)-piperidine-1-carboxylate
Prepared analogously to Example 81 from 80.0 mg (0.17 mmol) (R)-2-(4-hydroxy-3,5-dimethyl-phenyl)-1-carboxy-ethyl 4-(2-oxo-1,2-dihydro-quinolin-3-yl)-piperidine-1-carboxylate and 29.2 mg (0.17 mmol) 1-(tetrahydropyran-4-yl)-piperazine, the reaction mixture being stirred overnight at RT.

reactant | (R)-2-(4-hydroxy-3,5-dimethyl-phenyl)-1-carboxy-ethyl 4-(2-oxo-1,2-dihydro-quinolin-3-yl)-piperidine-1-carboxylate | 0.17 mmol, 80.0 mg | O=C1NC2=CC=CC=C2C=C1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C(=C1)C)O)C)C(=O)O | C26H28N2O6
reactant | 1-(tetrahydropyran-4-yl)-piperazine | 0.17 mmol, 29.2 mg | O1CCC(CC1)N1CCNCC1 | C9H18N2O
product | (R)-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-2-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-ethyl 4-(2-oxo-1,2-dihydro-quinolin-3-yl)-piperidine-1-carboxylate | O=C1NC2=CC=CC=C2C=C1C1CCN(CC1)C(=O)O[C@@H](C(N1CCN(CC1)C1CCOCC1)=O)CC1=CC(=C(C(=C1)C)O)C | C35H44N4O6
